* Title: Single VO2-RC oscillator

.include ./custom_spice_lib/VO2_Sto_rand.cir

* Netlist

V1 Net-_V1-Pad1_ 0 dc 14
C1 /A 0 300p
R1 /A 0 47k
XU1 Net-_V1-Pad1_ /A /C VO2_Sto Rins=100.2k Rmet=0.99k Vimt=1.99 Vmit=1 Timt=30n Tmit=30n Aimt=0.001 Amit=0.001

* Control commands
.control
set wr_vecnames * to print header
set wr_singlescale * to not print scale vectors

let start_r = 10k
let stop_r = 100k
let delta_r = 20k
let r_act = start_r
let counter = 1
* loop
while r_act le stop_r
    set title = R1={$&r_act}
    *set path = data/{$title}
    set path = data/{$&counter}.txt

    alter r1 r_act
    tran 5e-9 10u 0 uic
    set curplottitle = $title
    plot v("/A")
    let r_act = r_act + delta_r

    *wrdata $path v("/A")

    *set gnuplot_terminal = png/quit
    *gnuplot $path v("/A")
    *+ title $title
    *+ xlabel "time [s]" ylabel "v("/A") [V]"
    
    let lin-tstep = 5e-9
    linearize V("/A")
    fft V("/A")
    plot log(abs(V("/A")))

    let counter = $&counter + 1
end

*quit
.endc
